US05817678
Step B: Preparation of 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-amino piperidine
1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-(benzyloxycarbonyl)amino piperidine (2.55 g, 6.51 mmol) was dissolved in EtOAc (75 mL), treated with Pd/C (510 mg) and shaken on a Parr apparatus at 45 psi overnight. The reaction mixture was filtered through celite, concentrated, and chromatographed (silica gel, 2% MeOH/CH2Cl2 with NH4OH) to give the title compound.

reactant | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-(benzyloxycarbonyl)amino piperidine | 6.51 mmol, 2.55 g | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)NC(=O)OCC1=CC=CC=C1)C(=O)OC | C20H28N2O6
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 510 mg | [Pd] | Pd
product | 1-(t-Butoxycarbonyl)-cis-3-methoxycarbonyl-5-amino piperidine | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)N)C(=O)OC | C12H22N2O4
